US04016166
To a solution of 2.9 g of 2-(m-nitroanilino)benzoic acid methyl ester and 20ml of dry dimethylformamide was added 0.43 g of sodium amide, and the whole was stirred for 30 minutes. To this was added dropwise under cooling 2.6 g of propyl isocyanate. This mixture was allowed to stand for one hour at room temperature and for additional one hour at 60° C, and then reacted for 4 hours at 120° C. The solvent was distilled off from the mixture under reduced pressure. To the residue obtained was added water to precipitate a crude product. This product was recrystallized from methanol to produce 2.4 g of 1-(m-nitrophenyl)-3-propylquinazoline-2,4(1H, 3H)-dione as colorless needles, melting at 162°-163° C.

reactant | 2-(m-nitroanilino)benzoic acid methyl ester | 2.9 g | COC(C1=C(C=CC=C1)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C14H12N2O4
reactant | dimethylformamide | 20ml | CN(C=O)C | C3H7NO
reactant | sodium amide | 0.43 g | [NH2-].[Na+]
reactant | propyl isocyanate | 2.6 g | C(CC)N=C=O | C4H7NO
solvent | water | O | H2O
product | 1-(m-nitrophenyl)-3-propylquinazoline-2,4(1H, 3H)-dione | 2.4 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)CCC)=O | C17H15N3O4
